US03954766
A method for preparing each of the foregoing compounds is presented in the following examples. In general, however, the preparation is one wherein 2-(2-hydroxyethyl)-pyrazine (L. J. Kitchen and E. S. Hanson, Antibiot. Chemo., 73, 1838 (1951)) was reduced with H2 and PtO2 in MeOH to yield 2-(2-hydroxyethyl)piperazine (E. F. Rogers and H. J. Becker, U.S. Pat. No. 3,281,423 (1966)) which, in turn, was converted to the chloride. Ring closure in base afforded 1,4-diazabicyclo[ 3.2.1]octane which was acylated with ethylchloroformate to give 4-carbethoxy-1,4-diazabicyclo[ 3.2.1] octane or with diethylcarbamyl chloride to give 4-diethylcarbamyl-1,4-diazabicyclo[ 3.2.1] octane.

reactant | 2-(2-hydroxyethyl)-pyrazine | OCCC1=NC=CN=C1 | C6H8N2O
solvent | MeOH | CO | CH4O
catalyst | PtO2 | O=[Pt]=O
product | 2-(2-hydroxyethyl)piperazine | OCCC1NCCNC1 | C6H14N2O
